US08242175B2
N-Boc-piperazine (46 mg, 0.246 mmol) was added to a stirred mixture of methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester (prepared as described in Preparation 5, 100 mg, 0.206 mmol) and TEA (0.057 ml, 0.412 mmol) in DMF (1 ml) and DCM (1 ml). The resulting solution was stirred at room temperature for 1 h. The mixture was diluted with water and extracted with AcOEt. The organic phase was washed with water, dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by column chromatography (eluent: DCM/MeOH/NH4OH 99:1:0.2). The resulting product was dissolved in DCM and treated with HCl/Et2O for 4 h. The precipitate was filtered off and rinsed with DCM to give 42.6 mg of (E)-N-hydroxy-3-{4-[(E)-3-oxo-3-(4-piperazin-1-ylmethyl-phenyl)-propenyl]-phenyl}-acrylamide as its bis-hydrochloride salt.

reactant | N-Boc-piperazine | 0.246 mmol, 46 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | methanesulfonic acid 4-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester | 0.206 mmol, 100 mg | O1C(CCCC1)ONC(=O)/C=C/C1=CC=C(C=C1)/C=C/C(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C25H27NO7S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-N-hydroxy-3-{4-[(E)-3-oxo-3-(4-piperazin-1-ylmethyl-phenyl)-propenyl]-phenyl}-acrylamide | 42.6 mg | ONC(\C=C\C1=CC=C(C=C1)\C=C\C(C1=CC=C(C=C1)CN1CCNCC1)=O)=O | C23H25N3O3
